US07238689B2
462.0 g (3.0 moles) of phosphorus oxychloride was added to 87.7 g (1.2 moles) of N,N-dimethylformamide with ice-cooling. Thereto was added, at room temperature, 208.2 g (1.0 moles) of 1-tert-butyl-3-trifluoromethyl-1H-pyrazol-5-ol. The resulting mixture was refluxed for 10 hours with heating, to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with chloroform. The resulting organic layer was washed with water, a 5% aqueous sodium hydroxide solution and water in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 131.5 g (yield: 21.7%) of 1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde as white crystals.

reactant | phosphorus oxychloride | 3.0 moles, 462.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 1.2 moles, 87.7 g | CN(C=O)C | C3H7NO
reactant | 1-tert-butyl-3-trifluoromethyl-1H-pyrazol-5-ol | 1.0 moles, 208.2 g | C(C)(C)(C)N1N=C(C=C1O)C(F)(F)F | C8H11F3N2O
solvent | water | O | H2O
product | 1-tert-butyl-5-chloro-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 131.5 g, yield: 21.7% | C(C)(C)(C)N1N=C(C(=C1Cl)C=O)C(F)(F)F | C9H10ClF3N2O
